US07652041B2
Step 2. Preparation of (E)-N-(4-chloro-3-(trifluoromethyl)phenyl)-3-(3-hydroxyphenyl)-2-methylacrylamide
To a flame-dried flask, NaHCO3 (5.20 g, 61.88 mmol), 3 Å molecular sieves (10.9 g), N-(4-chloro-3-(trifluoromethyl)phenyl)methacrylamide (6.51 g, 24.75 mmol), and 3-iodophenol (5.99 g, 27.23 mmol) were added under an atmosphere of argon. The solids were then dissolved in ACN (100 mL) and stirred at rt for 10 min. PPh (650 mg, 2.48 mmol) was added and argon bubbled through the reaction mixture. Pd(OAc)2 (278 mg, 1.24 mmol) was added and the reaction mixture was heated at 60° C. for 12 h. Additional palladium acetate was added and the reaction mixture was heated for 24 h. The mixture was cooled to rt and filtered through a pad of Celite. The filtrate was washed with sat. NaHCO3 and the aqueous solution extracted with EtOAc. The combined organic solutions were dried over Na2SO4, filtered, and concentrated to provide a brown oil. Purification by column chromatography (SiO2, 0-10% Et2O in DCM) provided the titled compound. LCMS, FA: Rt=1.94 min, [MH+ 356.0].

reactant | NaHCO3 | 61.88 mmol, 5.20 g | C(=O)(O)[O-].[Na+]
reactant | N-(4-chloro-3-(trifluoromethyl)phenyl)methacrylamide | 24.75 mmol, 6.51 g | ClC1=C(C=C(C=C1)NC(C(=C)C)=O)C(F)(F)F | C11H9ClF3NO
reactant | 3-iodophenol | 27.23 mmol, 5.99 g | IC=1C=C(C=CC1)O | C6H5IO
solvent | ACN | 100 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 1.24 mmol, 278 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-N-(4-chloro-3-(trifluoromethyl)phenyl)-3-(3-hydroxyphenyl)-2-methylacrylamide | ClC1=C(C=C(C=C1)NC(\C(=C\C1=CC(=CC=C1)O)\C)=O)C(F)(F)F | C17H13ClF3NO2
